US08217066B2
Step 2: 1-(4′-{3-Methyl-4-[(methyl-phenethyl-amino)-methyl]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 3, Step 5, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-methyl-phenethyl-amine and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-methyl-phenethyl-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CN(CCC1=CC=CC=C1)C | C20H21BrN2O
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-(4′-{3-Methyl-4-[(methyl-phenethyl-amino)-methyl]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN(CCC1=CC=CC=C1)C | C32H34N2O3
